US09315505B2
Methyl ester 104 is coupled with compound 7, which is synthesized as described in Reaction Scheme 1, in the presence of palladium acetate coupling catalyst, tetrabutylammonium fluoride, sodium bicarbonate in dimethyl formamide at 100° C., to produce compound 105. Compound 105 is converted to isopropoxy isoquinoline compound 107 by one of two methods. In the first method, compound 105 is treated with phosphoryl chloride in refluxing acetonitrile to produce the 1-chloro isoquinoline compound 106, which is then reacted with isopropyl alcohol in the presence of sodium hydride base to product compound 107. Alternatively, compound 105 is converted directly to compound 107 by reaction with isopropyl bromide, in dimethylformamide at 80° C., in the presence of potassium tert-butoxide.

reactant | isopropoxy isoquinoline | C(C)(C)OC1=NC=CC2=CC=CC=C12 | C12H13NO
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-chloro isoquinoline | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
